US06960601B2
Preparation of 2,4-dichloro-N-(4-chlorophenyl)benzenecarboximidamide
Under argon, 4-chloroaniline (6.67 g, 52.5 mmol) was slowly added to EtMgBr (52 mL, 1 M in THF, 52 mmol) portion wise. After the solution was stirred for 0.5 h, 2,4-dichlorobenzonitrile (9.03 g, 52.5 mmol) was added. The resulting solution was stirred at rt overnight. The reaction mixture was carefully quenched with water and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated. Crude product (16.26 g,) was obtained as a sticky brown foam which was used without purification for the next step. LC-MS m/z 299.3 (MH+), retention time 1.75 min (MDLC 1); 1H NMR (300 MHz, CDCl3) δ 4.92 (2H, br), 7.09-7.51 (7H, m).

reactant | 4-chloroaniline | 52.5 mmol, 6.67 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | EtMgBr | 52 mmol, 1 M, 52 mL | CC[Mg+].[Br-]
reactant | 2,4-dichlorobenzonitrile | 52.5 mmol, 9.03 g | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
product | 2,4-dichloro-N-(4-chlorophenyl)benzenecarboximidamide | 16.26 g | ClC1=C(C=CC(=C1)Cl)C(NC1=CC=C(C=C1)Cl)=N | C13H9Cl3N2
